US08217028B2
2-Chloro-1-methylpyridium iodide (1.316 g) was added to a solution of 1H-indole-6-carbaldehyde oxime (D11) (750 mg) in dry THF (80 mL) at RT. After stirring for 10 min, triethylamine (2.284 mL) was added to the reaction mixture. The reaction mixture was heated to 50° C. and stirred at 50° C. for 3.5 hours, then left overnight with stirring at RT. The mixture was heated to refluxed for 5 hours. The solvent was evaporated. The residue was dissolved in EtOAc (100 mL) and water (100 mL) was added. The organic fraction was separated. The organic fraction was dried over anhydrous magnesium sulfate. The dried solution was concentrated to afford 1H-indole-6-carbonitrile (D12) as a brown solid (680 mg). δH (DMSO-d6, 400 MHz): 6.60 (1H, m), 7.32 (1H, dd), 7.68 (1H, m), 7.72 (1H, d), 7.88 (1H, m), 11.68 (1H, br s). MS (ES): C9H6N2 requires 142; found 141.0 (M−H+).

reactant | 1H-indole-6-carbaldehyde oxime | 750 mg | N1C=CC2=CC=C(C=C12)C=NO | C9H8N2O
reactant | triethylamine | 2.284 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 1H-indole-6-carbonitrile | 680 mg | N1C=CC2=CC=C(C=C12)C#N | C9H6N2
